US04045568
To a 0° C. slurry of 10.5 g. of imidazole in 15 ml. dry dimethylformamide was added 6.5 g. of γ,p-dichlorobutyrophenone and the mixture was stirred overnight at room temperature then one day at 60° C. The above solution was poured into 400 ml. of water and extracted three times with ethyl acetate. The combined extracts were washed with water, dried over magnesium sulfate and the solvent evaporated to afford 1-[4-(4-chlorophenyl)butan-4-onyl]imidazole, which was used in the next step. This material may be further purified, if necessary, through the nitrate salt.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | γ,p-dichlorobutyrophenone | C1=CC(=CC=C1C(=O)CCCCl)Cl | C10H10Cl2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-(4-chlorophenyl)butan-4-onyl]imidazole | ClC1=CC=C(C=C1)C(CCCN1C=NC=C1)=O | C13H13ClN2O
